US07393868B2
2-Cyano-4′-[3-(propane-2-sulfonylamino)-thiophen-2-yl]-biphenyl-4-carboxylic acid methylamide
Add thionyl chloride (0.2 mmol) to a suspension of 2-Cyano-4′-[3-(propane-2-sulfonylamino)-thiophen-2-yl]-biphenyl-4-carboxylic acid (0.1 mmol) in dichloromethane at RT. Stir mixture for 1 h at 50° C. and concentrate to dryness under reduced pressure. Add to the resultant residue 0.5 mmol MeNH2 (2M in THF). Concentrate the reaction to dryness and purify with flash chromatography (Silica gel-5%MeOH/CH2Cl2). Concentrate the desired fractions to provide the title compound. MS (ES−):438 (M−1).

reactant | thionyl chloride | 0.2 mmol | S(=O)(Cl)Cl | Cl2OS
reactant | 2-Cyano-4′-[3-(propane-2-sulfonylamino)-thiophen-2-yl]-biphenyl-4-carboxylic acid | 0.1 mmol | C(#N)C1=C(C=CC(=C1)C(=O)O)C1=CC=C(C=C1)C=1SC=CC1NS(=O)(=O)C(C)C | C21H18N2O4S2
reactant | MeNH2 | 2M | CN | CH5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-Cyano-4′-[3-(propane-2-sulfonylamino)-thiophen-2-yl]-biphenyl-4-carboxylic acid methylamide | CNC(=O)C1=CC(=C(C=C1)C1=CC=C(C=C1)C=1SC=CC1NS(=O)(=O)C(C)C)C#N | C22H21N3O3S2
